US04889861
5-(p-Cyanophenyl)-7,8-dihydroimidazo[1,5-a]pyridine
A solution of 0.24 g of 1-(p-cyanophenylmethyl)-5-(2-formylethyl)-1H-imidazole in 10 ml of anhydrous ethanol is refluxed under nitrogen for 2 h with 20 mg of potasssium tert-butoxide, cooled and evaporated to yield the title compound.

reactant | 1-(p-cyanophenylmethyl)-5-(2-formylethyl)-1H-imidazole | 0.24 g | C(#N)C1=CC=C(C=C1)CN1C=NC=C1CCC=O | C14H13N3O
reactant | tert-butoxide | 20 mg | CC(C)([O-])C
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-(p-Cyanophenyl)-7,8-dihydroimidazo[1,5-a]pyridine | C(#N)C1=CC=C(C=C1)C1=CCCC=2N1C=NC2 | C14H11N3
